US06590118B1
A mixture of 4-(2-nitrophenoxy)phthalic acid dimethyl ester (2.16 g, 6.53 mmol) and palladium on activated charcoal (10% Pd, 120 mg) in methylene chloride (115 ml) was hydrogenated in a Parr apparatus at 207 kPa (30 psi) for 16 hours. The mixture was filtered and evaporated to dryness in vacuo to give 4-(2-aminophenoxy)phthalic acid dimethyl ester as an yellow oil (yield: 1.88 g (96%)). 1H—NMR (CDCl3) in ppm: δ 3.86 (3H,s); 3.90 (3H, s); 6.7-6.97 (3H,m); 7.0-7.1 ( 2H,m); 7.15 (1H,d); 7.78 (1H,d). 13C—NMR (CDCl3) in ppm: δ 52.9; 53.2; 116.5; 117.4; 118.2; 119.4; 121.6; 124.4; 126.7; 132.1; 136.1; 139.2; 141.6; 160.8; 167.1; 168.8.

reactant | 4-(2-nitrophenoxy)phthalic acid dimethyl ester | 6.53 mmol, 2.16 g | COC(C=1C(C(=O)OC)=CC(=CC1)OC1=C(C=CC=C1)[N+](=O)[O-])=O | C16H13NO7
catalyst | palladium on activated charcoal | 120 mg | [Pd] | Pd
solvent | methylene chloride | 115 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-aminophenoxy)phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=CC(=CC1)OC1=C(C=CC=C1)N)=O | C16H15NO5
